### PR TITLE
[Merged by Bors] - feat: a measurable space structure on matrices

### PR DESCRIPTION
**Pull request by gaetanserre**
A measurable space (and borel space) structure on matrices and a proof that the function `CFC.sqrt` on real matrices is measurable.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/MeasureTheory/Function/Matrix.lean [hunk 1]
```diff
@@ -0,0 +1,54 @@
...
+    · simp
+    · exact continuous_const.continuousOn
+    · exact continuous_id.continuousOn
+  convert CFC.continuousOn_sqrt.measurable_piecewise continuousOn_const h_measurable using 1
+  rotate_left
+  · exact 0
+  · ext S : 1
+    by_cases hS : 0 ≤ S
+    · simp [hS]
+    · simp [hS, CFC.sqrt_of_not_nonneg]
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/Matrix.lean]: Here is a more general version: this will be true as soon as a type `A` satisfies the hypotheses of `CFC.continuousOn_sqrt`, has order-closed topology and is equipped with the Borel sigma-algebra. Therefore it should not go in this file but in a more general file about cfc. 
```suggestion
@[fun_prop]
lemma measurable_cfcSqrt {A : Type*} [NonUnitalNormedRing A] [StarRing A] [NormedSpace ℝ A]
  [IsScalarTower ℝ A A] [SMulCommClass ℝ A A] [PartialOrder A] [StarOrderedRing A]
  [NonnegSpectrumClass ℝ A] [NonUnitalIsometricContinuousFunctionalCalculus ℝ A IsSelfAdjoint]
  [ContinuousStar A] [CompleteSpace A] [OrderClosedTopology A] [MeasurableSpace A] [BorelSpace A] :
    Measurable (CFC.sqrt : A → A) := by
  have h_measurable : MeasurableSet {S : A | 0 ≤ S} :=
    (isClosed_le continuous_const continuous_id).measurableSet
  classical
  convert CFC.continuousOn_sqrt.measurable_piecewise (continuousOn_const (c := 0)) h_measurable
  ext S
  by_cases hS : 0 ≤ S
  · simp [hS]
  · simp [hS, CFC.sqrt_of_not_nonneg]
```

File: Mathlib/MeasureTheory/Function/Matrix.lean [hunk 2]
```diff
@@ -0,0 +1,54 @@
...
+open scoped MatrixOrder Matrix.Norms.L2Operator
+
+namespace Matrix
+
+variable {m n α : Type*} [MeasurableSpace α]
+
+instance : MeasurableSpace (Matrix m n α) := inferInstanceAs <| MeasurableSpace (m → n → α)
+
+instance [Countable m] [Countable n] [TopologicalSpace α] [SecondCountableTopology α]
+    [BorelSpace α] : BorelSpace (Matrix m n α) := inferInstanceAs <| BorelSpace (m → n → α)
```
Comment (EtienneC30) [inline Mathlib/MeasureTheory/Function/Matrix.lean]: I think you should rather create a `MeasurableSpace` file in the `Matrix` folder, mimicking the `Mathlib.Analysis.Normed.Lp.MeasurableSpace` file, proving measurability of `Matrix.of` and providing a `MeasurableEquiv` version.

**Comment by gaetanserre** [comment]
Thank you very much for the feedback. I tried to apply your suggestions.

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 3]
```diff
@@ -0,0 +1,56 @@
...
+same as the one on `m → n → α`.
+-/
+
+@[expose] public section
+
+variable (m n α : Type*) [MeasurableSpace α]
+
+namespace Matrix
+
+instance : MeasurableSpace (Matrix m n α) := inferInstanceAs <| MeasurableSpace (m → n → α)
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean:26]: Can you add some API around this please? Things similar to [measurable_pi_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/MeasurableSpace/Constructions.html#measurable_pi_iff), [measurable_pi_apply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/MeasurableSpace/Constructions.html#measurable_pi_apply), [Measurable.eval](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/MeasurableSpace/Constructions.html#Measurable.eval), [measurable_pi_lambda](https://leanprover-community.github.io/mathlib4_docs/Mathlib/MeasureTheory/MeasurableSpace/Constructions.html#measurable_pi_lambda).

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 4]
```diff
@@ -0,0 +1,56 @@
...
+
+@[fun_prop]
+lemma measurable_matrix_of : Measurable <| Matrix.of (m := m) (n := n) (α := α) :=
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean]: You are already in the `Matrix` namespace so I think this is sufficient:
```suggestion
lemma measurable_of : Measurable <| Matrix.of (m := m) (n := n) (α := α) :=
```

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 5]
```diff
@@ -0,0 +1,56 @@
...
+  [BorelSpace α]
+
+instance : BorelSpace (Matrix m n α) := inferInstanceAs <| BorelSpace (m → n → α)
+
+end Matrix
+
+namespace MeasurableEquiv
+
+/-- The map from `m → n → α` to `Matrix m n α` as a measurable equivalence. -/
+protected def toMatrix : (m → n → α) ≃ᵐ (Matrix m n α) where
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean]: In order to be coherent with [Matrix.ofAddEquiv](https://leanprover-community.github.io/mathlib4_docs/Mathlib/LinearAlgebra/Matrix/Defs.html#Matrix.ofAddEquiv) and similar, this should rather go like this:
```suggestion
protected def Matrix.ofMeasurableEquiv : (m → n → α) ≃ᵐ (Matrix m n α) where

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 6]
```diff
@@ -0,0 +1,56 @@
...
+  toEquiv := Matrix.of.symm
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean]: Wrong direction here, defeq leads to weird things haha
Can you fix the lemmas below as well please?
```suggestion
  toEquiv := Matrix.of
```

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 7]
```diff
@@ -0,0 +1,56 @@
+/-
+Copyright (c) 2026 Gaëtan Serré. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Gaëtan Serré
+-/
+module
+
+public import Mathlib.MeasureTheory.Constructions.BorelSpace.Basic
+public import Mathlib.Topology.Instances.Matrix
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean:9]: Here is a way yo minimize public imports:
```suggestion
public import Mathlib.MeasureTheory.MeasurableSpace.Embedding
public import Mathlib.LinearAlgebra.Matrix.Defs

import Mathlib.MeasureTheory.Constructions.BorelSpace.Basic
```

File: Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Measurable.lean [hunk 8]
```diff
@@ -0,0 +1,38 @@
...
+
+variable {A : Type*} [NonUnitalNormedRing A] [StarRing A] [NormedSpace ℝ A]
+  [IsScalarTower ℝ A A] [SMulCommClass ℝ A A] [PartialOrder A] [StarOrderedRing A]
+  [NonnegSpectrumClass ℝ A] [NonUnitalIsometricContinuousFunctionalCalculus ℝ A IsSelfAdjoint]
+  [CompleteSpace A] [ContinuousStar A] [OrderClosedTopology A] [MeasurableSpace A] [BorelSpace A]
+
+namespace CFC
+
+@[fun_prop]
+lemma measurable_cfcSqrt : Measurable (sqrt : A → A) := by
```
Comment (EtienneC30) [inline Mathlib/Analysis/SpecialFunctions/ContinuousFunctionalCalculus/Rpow/Measurable.lean]: We do not put namespaces in names this way, the right name is:
```suggestion
lemma measurable_sqrt : Measurable (sqrt : A → A) := by
```

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean (hunk 3 above)
Comment (gaetanserre) [reply Mathlib/Analysis/Matrix/MeasurableSpace.lean]: Thank you again for your detailed feedback. I added `measurable_iff`, `measurable_eval` and `measurable_lambda` but I'm not sure that `measurable_pi_apply` makes sense here.

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 9]
```diff
@@ -0,0 +1,59 @@
...
+instance [Countable m] [Countable n] [TopologicalSpace α] [SecondCountableTopology α]
+  [BorelSpace α] : BorelSpace (Matrix m n α) := inferInstanceAs <| BorelSpace (m → n → α)
+
+/-- The map from `m → n → α` to `Matrix m n α` as a measurable equivalence. -/
+protected def ofMeasurableEquiv : (m → n → α) ≃ᵐ (Matrix m n α) where
+  toEquiv := Matrix.of
+  measurable_toFun := measurable_id
+  measurable_invFun := measurable_of m n α
+
+lemma coe_toMatrix : ⇑(Matrix.ofMeasurableEquiv m n α) = Matrix.of := rfl
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean]: Same for the lemmas below:
```suggestion
lemma coe_ofMeasurableEquiv : ⇑(Matrix.ofMeasurableEquiv m n α) = Matrix.of := rfl
```

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean (hunk 3 above)
Comment (EtienneC30) [reply Mathlib/Analysis/Matrix/MeasurableSpace.lean:26]: Uh sorry looks like I accidentally deleted your message 😅
Here is what I had in mind, the idea is to see a matrix as an element of a product space:
```lean
variable {β : Type*} [MeasurableSpace β]

lemma _root_.Measurable.eval_matrix {i : m} {j : n} {M : β → Matrix m n α} (hM : Measurable M) :
    Measurable (M · i j) := hM.eval.eval

protected lemma measurable_pi_lambda (M : β → Matrix m n α)
    (hM : ∀ i j, Measurable (M · i j)) : Measurable M :=
  measurable_pi_lambda _ (fun i ↦ measurable_pi_lambda _ fun j ↦ hM i j)

protected lemma measurable_iff {M : β → Matrix m n α} :
    Measurable M ↔ ∀ i j, Measurable (M · i j) where
  mp h _ _ := h.eval_matrix
  mpr h := Matrix.measurable_pi_lambda m n α M h

protected lemma measurable_pi_apply {i : m} {j : n} :
    Measurable (fun M : Matrix m n α ↦ M i j) :=
  measurable_id.eval_matrix
```

Comment (gaetanserre) [reply Mathlib/Analysis/Matrix/MeasurableSpace.lean:26]: Absolutely, I completely messed up. Sorry for that. I'll correct that. Why do we want these lemmas to be protected?

Comment (EtienneC30) [reply Mathlib/Analysis/Matrix/MeasurableSpace.lean:26]: That's because they exist in the root namespace as well so it avoids conflict when `Matrix` is open.

Comment (gaetanserre) [reply Mathlib/Analysis/Matrix/MeasurableSpace.lean:26]: Ok fair enough. Github's CI is not working right now, but it should be fine once it's settled.

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 10]
```diff
@@ -0,0 +1,77 @@
...
+
+instance : MeasurableSpace (Matrix m n α) := inferInstanceAs <| MeasurableSpace (m → n → α)
+
+variable {β : Type*} [MeasurableSpace β]
+
+lemma _root_.Measurable.eval_matrix {i : m} {j : n} {M : β → Matrix m n α} (hM : Measurable M) :
+    Measurable (M · i j) := hM.eval.eval
+
+protected lemma measurable_lambda (M : β → Matrix m n α)
+    (hM : ∀ i j, Measurable (M · i j)) : Measurable M :=
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean]: Actually I realize we can have better names than those of the general theorems for product spaces, here are my suggestions:
```suggestion
lemma _root_.Measurable.of_eval_matrix {M : β → Matrix m n α}
    (hM : ∀ i j, Measurable (M · i j)) : Measurable M :=
```

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 11]
```diff
@@ -0,0 +1,77 @@
...
+instance [Countable m] [Countable n] [TopologicalSpace α] [SecondCountableTopology α]
+  [BorelSpace α] : BorelSpace (Matrix m n α) := inferInstanceAs <| BorelSpace (m → n → α)
+
+/-- The map from `m → n → α` to `Matrix m n α` as a measurable equivalence. -/
+protected def ofMeasurableEquiv : (m → n → α) ≃ᵐ (Matrix m n α) where
+  toEquiv := Matrix.of
+  measurable_toFun := measurable_id
+  measurable_invFun := measurable_of m n α
+
+lemma coe_toMatrix : ⇑(Matrix.ofMeasurableEquiv m n α) = Matrix.of := rfl
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean]: Same for lemmas below:
```suggestion
lemma coe_ofMeasurableEquiv : ⇑(Matrix.ofMeasurableEquiv m n α) = Matrix.of := rfl
```

File: Mathlib/Analysis/Matrix/MeasurableSpace.lean [hunk 12]
```diff
@@ -0,0 +1,78 @@
...
+lemma coe_ofMeasurableEquiv : ⇑(Matrix.ofMeasurableEquiv m n α) = Matrix.of := rfl
+
+lemma coe_ofMeasurableEquiv_symm : ⇑(Matrix.ofMeasurableEquiv m n α).symm = Matrix.of.symm := rfl
+
+@[simp]
+lemma _root_.MeasurableEquiv.ofMatrix_apply (f : m → n → α) :
+    Matrix.ofMeasurableEquiv m n α f = Matrix.of f := rfl
+
+@[simp]
+lemma _root_.MeasurableEquiv.ofMatrix_symm_apply (M : Matrix m n α) :
```
Comment (EtienneC30) [inline Mathlib/Analysis/Matrix/MeasurableSpace.lean]: Can you change the names of these as well please?

Comment (gaetanserre) [reply Mathlib/Analysis/Matrix/MeasurableSpace.lean]: Sure. Like this [a7a23f8](https://github.com/leanprover-community/mathlib4/pull/42621/commits/a7a23f84b43bcc8f3f7f2e2c531cc17e24ad40f4)?

**Comment by EtienneC30** [comment]
Thanks!
maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
